US06573274B1
A mixture of 3-amino-6-bromo-2-(N-(2-chloro-4-phenylbenzyl)amino)pyridine (1.85 g), tetraethoxymethane (4.3 g) and acetic acid (18.5 ml) was stirred at room temperature overnight and at 70° C. for 7 hr. The reaction mixture was concentrated to dryness under reduced pressure, and toluene was added, which was followed by concentration under reduced pressure. The residue was dissolved in ethyl acetate and washed twice with saturated aqueous sodium hydrogen carbonate solution and once with saturated brine. The organic layer was dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was applied to silica gel column (n-hexane:ethyl acetate=9:1) to give a single product (55 mg) of 5-bromo-3-(2-chloro-4-phenylbenzyl)-2-ethoxy-3H-imidazo[4,5-b]pyridine and a mixture (977 mg) with a by product each as pale-brown amorphous.

reactant | 3-amino-6-bromo-2-(N-(2-chloro-4-phenylbenzyl)amino)pyridine | 1.85 g | NC=1C(=NC(=CC1)Br)NCC1=C(C=C(C=C1)C1=CC=CC=C1)Cl | C18H15BrClN3
reactant | tetraethoxymethane | 4.3 g | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | acetic acid | 18.5 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-3-(2-chloro-4-phenylbenzyl)-2-ethoxy-3H-imidazo[4,5-b]pyridine | 55 mg | BrC1=CC=C2C(=N1)N(C(=N2)OCC)CC2=C(C=C(C=C2)C2=CC=CC=C2)Cl | C21H17BrClN3O
